US04977146
STEP 16A: 1-[3-(2-Hydroxyethylthio)-4-hydroxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl) butan-1,4-dione
A mixture of 1-[3-bromo-4-hydroxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione (30 g, 56.7 mmol), 2-hydroxyethyl disulfide (30 mL, 244 mmol) and copper powder (30 g) in dry pyridine (200 mL) was heated with vigorous stirring under reflux and nitrogen overnight. The progress of the reaction was monitored by TLC (hexane-ethyl acetate; 1:1, v/v). After the reaction was complete, the mixture was filtered hot over celite and washed with dichloromethane. The filtrates were combined and evaporated to a residue, which was partitioned between dichloromethane and 2N HCl. The organic layer was washed with water, dried, and concentrated to a small volume and passed through a sintered funnel of silica gel (100 g). The product was eluted with dichloromethane and then hexane-ethyl acetate (1:1, v/v). Fractions containing the desired product were combined and evaporated to dryness, and the residue was dissolved in a small volume of dichloromethane. Ethyl ether was added and crystalls were collected and dried : Rf 0.23 (hexane-ethyl acetate; 1:2, v/v); NMR (CDCl3) δ 3.07 (t, J=6.0 Hz, SCH2), 3.41 (COCH2CH2CO), 3.71 (t, SCH2CH2). 3.93 (s, 3 OCH3), 5.18 (s. OCH2C6H5), 7.30 (s, 2H, C4ArH), 7.37-7.45 (OCH2C6H5), 7.61 & 7.87 (2 d, J=1.5 Hz, 2 H, C1ArH). The mother liquor, which contained some product as indicated by TLC, was not pursued further.

reactant | 1-[3-bromo-4-hydroxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione | 56.7 mmol, 30 g | BrC=1C=C(C=C(C1O)OCC1=CC=CC=C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C26H25BrO7
reactant | 2-hydroxyethyl disulfide | 244 mmol, 30 mL | OCCSSCCO | C4H10O2S2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper | 30 g | [Cu] | Cu
product | 1-[3-(2-Hydroxyethylthio)-4-hydroxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl) butan-1,4-dione | OCCSC=1C=C(C=C(C1O)OCC1=CC=CC=C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C28H30O8S
